US07915250B2
1,1-Dimethylethyl 3-hydroxy-3-(1-hydroxyethyl)azetidine-1-carboxylate (200 mg, 0.922 mmol) was dissolved in methanol (5 mL) and 4 N hydrochloric acid in dioxane (1 mL, 4 mmol) was added. The mixture was refluxed for 15 minutes and then was concentrated in vacuo to afford 3-(1-hydroxyethyl)azetidin-3-ol hydrochloride (0.922 mmol).

reactant | 1,1-Dimethylethyl 3-hydroxy-3-(1-hydroxyethyl)azetidine-1-carboxylate | 0.922 mmol, 200 mg | OC1(CN(C1)C(=O)OC(C)(C)C)C(C)O | C10H19NO4
reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | dioxane | 4 mmol, 1 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 5 mL | CO | CH4O
product | 3-(1-hydroxyethyl)azetidin-3-ol hydrochloride | 0.922 mmol | Cl.OC(C)C1(CNC1)O | InChI=1S/C5H11NO2.ClH/c1-4(7)5(8)2-6-3-5;/h4,6-8H,2-3H2,1H3;1H
